Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
shellfish derived / Zyprexa / Haldol
 
Attending: ___.
 
Chief Complaint:
"I want to go." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ year old unemployed, single Latino man, 
previously diagnosed with schizophrenia, borderline intellectual 
functioning (unconfirmed), cocaine and alcohol use disorder, s/p 
numerous psychiatric hospitalizations, recently seen in the 
___ for self reported depression and command auditory 
hallucinations in the setting of ongoing cocaine use who 
presented via EMS after patient was found disoriented in a gas 
station stating he wished to kill himself via stabbing himself 
in the chest with a knife. 
. 
Per EMS reported, patient was notably calm and cooperative with 
EMS and police. Admitted to drinking several pints and smoking 
crack. Patient reported seeing and hearing voices and that he 
could not figure where they were coming from.
. 
Upon initial interview with Dr. ___ reported he had been 
hearing voices for the past few weeks and stated the voices tell 
him to hurt himself. Because of the distressing voices, he 
reported feeling more suicidal over the past few weeks and 
stated that on day of presentation, he was feeling suicidal with 
thoughts of jumping off a bridge. Mr. ___ reported visual 
hallucinations of angels, God, Mother ___, and 'seeing stuff in 
the sky." Reported God told him to "walk straight" and stated he 
saw Mother ___ give him a hand to protect himself from the 
demons. Also stated he saw people praying on the wall, believing 
it's a message from God. Believes he has a problem with the 
devil and that he is trying to ruin his life; patient reported 
he wanted to kill the devil. Denied homicidal ideation. Mr. 
___ reported feeling "down" and reported symptoms of 
anhedonia, hopelessness, fatigue, difficulty concentrating and  
sleep disturbances. Stated he has been drinking alcohol 3 times 
a week with the last drink about 4 bottles of beer per day. Also 
 reported using cocaine about 2 times per week with last use on 
day of presentation. Currently he is without an outpatient 
psychiatrist, but stated he had been on Risperidone Consta, 
which he receives from his outpatient PCP. Has been noncompliant 
for
about 1.5 months. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Upon interview with Mr. ___, who was a relatively limited 
historian, patient reported he was now feeling well with no 
complaints. Denied depressed mood or symptoms of psychosis, 
stating, "when I use cocaine I get psychotic." Reported he has 
been using cocaine about twice per week and states, "I need to 
quit." Denied current depressed mood, anhedonia, difficulty 
sleeping, difficulty with energy. Denied auditory or visual 
hallucinations on my examination, paranoia. Denied ideas of 
reference, thought insertion or broadcasting. Stated he would 
like to be discharged as soon as possible as he has two court 
dates in ___ and ___.
 
Past Medical History:
Past psychiatric history:
- Diagnoses: schizophrenia, psychosis as noted above 
- SA/SIB: Patient reports history of suicide attempt in ___ 
per
OMR also history of jumping out of a second floor window while
hearing voices but has denied this is a suicide attempt 
- Hospitalizations: s/p numerous psychiatric hospitalizations
including ___ on ___ and ___. Hospitalized on
___ in the past
- Psychiatrist: patient reports he is without a psychiatrist; 
per
OMR, has seen Dr. ___ at ___ in the
past 
- Therapist; none
- Harm to others: patient has history of assaultive behavior 
with
prior incarceration (5 months for "fighting")
. 
Past medical history:
- Hx of head injury with abnl head CT and L orbital frx from
fight; patient also reports separate episode of head trauma when
jumped off ___ story building, unverified by any other source
- denies past history of seizures
- asthma
- prior hx of testicular operation, details unknown
- HTN
- Scoliosis/kyphosis
- speech impediment 

 
Social History:
Substance use history:
- EtOH: frequent alcohol use (denies daily use), last drink was 
last night (several beers).  Declines to answer questions about 
hx of DTs or seizures.
- Illicits: last used crack the night prior to presentation 
(unknown quantity); states he does not use daily.  Denies recent 
marijuana use.
- Tobacco: 3 cigarettes per day
. 
Personal and Social History: ___
Family History:
Patient denies past family psychiatric history of substance 
abuse, psychiatric illness, or suicide attempts.
 
Physical Exam:
ADMISSION EXAM:
*VS: 98.6   PO 139/87    91    18    95%RA   
  Neurological:
    *station and gait: normal gait and station 
    *tone and strength: moves all four extremities spontaneously
    abnormal movements: no tremors or adventitious movements
noted 
  *Appearance: Appears stated age, dressed casually with good
hygiene and grooming 
  Behavior: calm, cooperative and pleasant with interviewer, 
good
eye contact, no psychomotor agitation or retardation noted 
  *Mood and Affect: "good"/euthymic, bright, mood congruent,
appropriate 
*Thought process: concrete but mostly linear, goal and future
oriented
*Thought Content: denies SI/HI, AVH 
  *Judgment and Insight: limited/limited 
  Cognition:
    *Attention, *orientation, and executive function: awake,
alert and oriented x3 
    *Memory: short and long term memory grossly intact 
   *Fund of knowledge: aver age 
    *Speech: normal rate, volume, +speech impediment 
    *Language: fluent, no paraphasic errors
 
Pertinent Results:
___: Na: 138
___: K: 3.8
___: Cl: 101
___: CO2: 25
___: BUN: 16
___: Creat: 0.9
___: Glucose: 120*

___: WBC: 12.0*
___: RBC: 5.37
___: HGB: 15.3
___: HCT: 47.1
___: MCV: 88
___: MCH: 28.5
___: MCHC: 32.5
___: RDW: 12.9
___: Plt Count: 384
___: Neuts%: 71.5*
___: Lymphs: 20.5
___: MONOS: 6.4
___: Eos: 0.5*
___: BASOS: 0.4

___: Alb: 3.9
___: AST: 22
___: ALT: 30
___: Alk Phos: 61
___: Total Bili: 0.3
___: LDH: 192
___: Alb: 3.9

___: TSH: 1.0

___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): TR
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): TR
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

___: Benzodiazepine: NEG 
___: Barbiturate: NEG
___: Opiate: NEG 
___: Cocaine: POS*
___: Amphetamine: NEG
___: Methadone: NEG 
 
Brief Hospital Course:
This is a ___ year old unemployed, single Latino man, previously 
diagnosed with schizophrenia, borderline intellectual 
functioning (unconfirmed), cocaine and alcohol use disorder, s/p 
numerous psychiatric hospitalizations, recently seen in the 
___ for self reported depression and command auditory 
hallucinations in the setting of ongoing cocaine use who 
presented via EMS after patient was found disoriented in a gas 
station stating he wished to kill himself via stabbing himself 
in the chest with a knife. 
. 
Diagnostically, differential is broad and review of the medical 
records is concerning for a primary psychotic disorder with 
history of AVH, paranoia in the past, requiring psychiatric 
admission. There is also a history of intellectual disability 
which may very well be contributing to his presentation, 
although I cannot confirm this diagnosis at this time. Clearly 
his cocaine use is contributing and likely responsible for the 
acute nature of his numerous psychiatric presentation.
.
#. Legal / Safety: On admission, the patient signed a 
conditional voluntary agreement (Section 10 & 11. On ___ he 
signed a 3-day notice which was set to expire on ___ (the day 
of discharge). He was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted. Given his good behavioral control 
and consistent denial of suicidal ideation or thoughts of self 
harm, I did not believe he met criteria to file a 7&8b and 
patient was discharged home with outpatient follow up. 
. 
#. Schizophrenia: On admission the patient denied ongoing 
auditory hallucinations. He stated that in the remote past he 
experienced hallucinations and paranoia when not using 
substances. More recently, he has only experienced 
hallucinations and non-linear thought process in the setting of 
substance use (as on admission). On admission he was started on 
Risperidone PO. He was briefly transitioned to Paliperidone PO 
with plans to initiate treatment with Invega Sustenna. After the 
patient signed a 3-day notice which was set to expire on ___, 
he was transitioned back to Risperidone PO with plans to 
initiate treatment with Risperidone Consta prior to discharge. 
The patient was in agreement with this plan. His first dose of 
Consta (37.5mg IM) was given on ___ with plan for second dose 
to be given on ___. The patient's PCP ___ that 
the patient had been on Consta in the past and had done 
reasonably well on the medication (though he was frequently lost 
to follow-up in the setting of substance use and subsequent 
decompensation of schizophrenia). During admission the patient 
was also offered PRN Lorazepam for anxiety which he frequently 
used (this medication was stopped the day prior to discharge). 
On the day of discharge the patient was future oriented, eager 
to engage in outpatient treatment, and denied SI, HI, AH, VH.

The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was friendly and sociable in 
the milieu.
.  
#. Cocaine use disorder: The patient and collateral contacts 
note that his underlying Schizophrenia has decompensated in the 
past when he abuses crack cocaine. During admission he was 
offered psychoeducation regarding effect of cocaine use and his 
underlying schizophrenia. He appeared to gain greater insight 
into the risks of cocaine use prior to discharge.
. 
# Alcohol use disorder: On admission the patient was monitored 
on CIWAS for alcohol withdrawal. This was discontinued shortly 
after admission as it was no longer required. He was offered 
psychoeducation regarding effect of alcohol use and his 
underlying schizophrenia.
. 
# Tobacco Use disorder: The patient declined offer of Tobacco 
cessation medications on discharge.

#. Medical:  The patient reported no acute or chronic complaints 
during admission.

RISK ASSESSMENT: On presentation, the patient was evaluated and 
felt to be at an increased risk of harm to herself and/or others 
based upon reported suicidal ideation, command auditory 
hallucinations, poor outpatient follow-up, medication 
non-compliance, poor insight/judgment, chronic mental illness, 
history of substance abuse, history of violence and male gender. 
 The modifiable risk factors were also addressed during 
admission via medication treatment, milieu/individual/group 
therapies, and establishing him with outpatient providers. The 
patient is being discharged with many protective risk factors 
including current medication compliance, help-seeking behavior, 
future-oriented viewpoint, reality testing ability, positive 
therapeutic relationship with outpatient providers, lack of 
suicidal ideation, and strong social supports.

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 200 mg PO QHS:PRN Insomnia 
2. HydrOXYzine 25 mg PO BID:PRN Anxiety 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 
2.  RisperiDONE Long Acting Injection 37.5 mg IM EVERY 2 WEEKS 
(WE) 
First dose given on ___.
Second dose due on ___. 
RX *risperidone microspheres [Risperdal Consta] 37.5 mg/2 mL 2 
syringes every weeks Disp #*2 Syringe Refills:*0 
3.  RisperiDONE 2 mg PO BID 
RX *risperidone [Risperdal] 2 mg 1 tablet(s) by mouth twice 
daily Disp #*28 Tablet Refills:*0 
4.  RisperiDONE 2 mg PO BID:PRN Agitation 
RX *risperidone 2 mg 1 tablet(s) by mouth twice daily as needed 
Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Schizophrenia
- Cocaine use disorder
- Alcohol use disorder

 
Discharge Condition:
Discharge exam:
- Station and gait: Steady gait, normal station
- Tone and strength: Spontaneously moves all extremities equally 
and against gravity
- Appearance: No acute distress, casually dressed, no PMR/PMA
- Behavior: Calm, cooperative, pleasant, good eye contact
- Mood and Affect: 'Great' / Euthymic, full range, mood 
congruent
- Thought process: Logical, linear, goal-oriented
- Thought Content: Denies AH, SI, HI. Does not appear to be 
responding to internal stimuli.
- Judgment and Insight: Good / Good
- Attention, orientation, and executive function: Attentive to 
interview, oriented to context and recent events
- Memory: intact to recent and remote events.
- Fund of knowledge: Average to below average
- Speech: Regular rate, rhythm, volume
- Language: No paraphasic errors

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___